US04652558
Preparation of 3-Methyl-2-triphenylstannylthio-4(3H)-quinazolinone
A mixture of 11.6 g (0.06 mole) 3-methyl-2-mercapto-4(3H)-quinazolinone, 23.2 g (0.06 mole) chlorotriphenyl tin and 6.1 g (0.06 mole) triethylamine in methylene chloride (about 200 ml) were stirred together, then refluxed for four hours and stirred overnight. The reaction mixture was washed with water, dried and stripped. After trituration with ether, 20.0 g of the above-identified product as a white solid, melting point 155°-157° C. was obtained.

reactant | 3-methyl-2-mercapto-4(3H)-quinazolinone | 0.06 mole, 11.6 g | CN1C(=NC2=CC=CC=C2C1=O)S | C9H8N2OS
reactant | chlorotriphenyl tin | 0.06 mole, 23.2 g | Cl[Sn](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | triethylamine | 0.06 mole, 6.1 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | about 200 ml | C(Cl)Cl | CH2Cl2
product | 3-Methyl-2-triphenylstannylthio-4(3H)-quinazolinone | 20.0 g | CN1C(=NC2=CC=CC=C2C1=O)S[Sn](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C9H8N2OS.3C6H5.Sn/c1-11-8(12)6-4-2-3-5-7(6)10-9(11)13;3*1-2-4-6-5-3-1;/h2-5H,1H3,(H,10,13);3*1-5H;/q;;;;+1/p-1
